US05563161
To a cooled (-80° C.) solution of ((3,5-bis(trifluoromethyl)phenyl)methyloxy)acetonitrile (0.51 g; Example 1a, Method B(i) was added 0.42M lithio diphenylmethane (10 ml; prepared by addition of 2.5M n-butyl lithium in hexane (10 ml) to a cooled (-80° C.) solution of diphenylmethane (4.2 g) in diethyl ether (5 ml), followed by warming to room temperature for 3 hours). The solution was warmed to room temperature for 0.5h and then 1M-hydrochloric acid (10 ml) and ethyl acetate were added and the organic phase washed with saturated brine and dried (MgSO4). After evaporation in vacuo the residue was chromatographed on silica gel (eluting with 5% ethyl acetate in hexane ) to give 1-(3,5-bis(triflouromethyl)phenyl)methyloxy)-3,3-diphenyl acetone as an oil which gave an identical 1H NMR spectrum to the material prepared by Method A.

reactant | ((3,5-bis(trifluoromethyl)phenyl)methyloxy)acetonitrile | FC(C=1C=C(C=C(C1)C(F)(F)F)COCC#N)(F)F | C11H7F6NO
reactant | lithio diphenylmethane | 0.42M | [Li]C(C1=CC=CC=C1)C1=CC=CC=C1
reactant | n-butyl lithium | 2.5M | C(CCC)[Li]
reactant | diphenylmethane | 4.2 g | C1(=CC=CC=C1)CC1=CC=CC=C1 | C13H12
reactant | hydrochloric acid | 10 ml | Cl | ClH
solvent | hexane | 10 ml | CCCCCC | C6H14
solvent | diethyl ether | 5 ml | C(C)OCC | C4H10O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3,3-diphenyl acetone | C1(=CC=CC=C1)C(C(C)=O)C1=CC=CC=C1 | C15H14O
